US08703758B2
E) tert-butyl {(1S)-2-[(cis-4-hydroxycyclohexyl)oxy]-1-methylethyl}carbamate
A suspension of tert-butyl [(1S)-2-(4-hydroxyphenoxy)-1-methylethyl]carbamate (40 g) and 5% rhodium-carbon (containing water (50%), 8.0 g) in methanol (600 mL) was stirred at 60° C. for 3 hr under a hydrogen atmosphere (5 atm). The catalyst was removed by filtration, and the filtrate was concentrated. The residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (8.3 g).

reactant | tert-butyl [(1S)-2-(4-hydroxyphenoxy)-1-methylethyl]carbamate | 40 g | OC1=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C14H21NO4
solvent | methanol | 600 mL | CO | CH4O
catalyst | rhodium-carbon | 8.0 g | [C].[Rh]
product | tert-butyl {(1S)-2-[(cis-4-hydroxycyclohexyl)oxy]-1-methylethyl}carbamate | 8.3 g | O[C@H]1CC[C@H](CC1)OC[C@H](C)NC(OC(C)(C)C)=O | C14H27NO4
